US06506901B2
Step E: 4-Hydroxy-2-oxindole
A mixture of 4-methoxy-2-oxindole (3.5 g, 21.4 mmol) and 3.0 g of aluminum chloride was heated at 235° C. for 10 minutes with stirring. On cooling the sludge was triturated with H2O. The solids were filtered washed with H2O and dried to give 3.0 g of product as an orange solid. Purified by flash chromatography (hexane-ethyl acetate 3:1) to give 1.1 g of pure title compound.

reactant | 4-methoxy-2-oxindole | 21.4 mmol, 3.5 g | COC1=C2CC(NC2=CC=C1)=O | C9H9NO2
reactant | aluminum chloride | 3.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 4-Hydroxy-2-oxindole | 3.0 g | OC1=C2CC(NC2=CC=C1)=O | C8H7NO2
